US06509349B1
2-(4-Chloro-3-methoxy-2-pyridinyl)-butanal
2-(4-Chloro-3-methoxy-2-pyridinyl)-butyronitrile (2.78 g) is dissolved in diethyl ether (150 ml), the solution is cooled to −74° C. and DIBAL (29 ml 1.0M) is added over a 30 min period. The solution is allowed to stir at −74° C. for an hour then at 0° C. for another hour. The reaction is quenched by addition of 5% sulfuric acid (25 ml), keeping the temperature around 0° C. The phases are separated and the organic phase washed with a solution of sodium bicarbonate, dried and evaporated to afford the desired product.

reactant | 2-(4-Chloro-3-methoxy-2-pyridinyl)-butyronitrile | 2.78 g | ClC1=C(C(=NC=C1)C(C#N)CC)OC | C10H11ClN2O
reactant | DIBAL | 1.0M, 29 ml | CC(C)C[AlH]CC(C)C
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 2-(4-Chloro-3-methoxy-2-pyridinyl)-butanal | ClC1=C(C(=NC=C1)C(C=O)CC)OC | C10H12ClNO2
